US09079900B2
tert-Butyl 6-bromo-4-methyl-2-(methylamino)-1H-benzo[d]imidazole-1-carboxylate
tert-Butyl 6-bromo-4-methyl-2-(methylamino)-1H-benzo[d]imidazole-1-carboxylate (6-Bromo-4-methylbenzimidazol-2-yl)-N-methylamine (0.128 g, 0.533 mmol), diisopropylethylamine (0.464 mL, 2.67 mmol), di-tert-butyl dicarbonate (0.349 g, 1.599 mmol) and N,N-dimethylformamide (5 mL) were combined in a 100 mL round bottom flask, capped and stirred at room temperature for 21 h. The resulting mixture was partitioned between water and ethyl acetate. The layers were separated and the organics were washed with water and brine. The organics were dried over magnesium sulfate, filtered, concentrated under reduced pressure and purified using flash chromatography (10-30% ethyl acetate in hexanes) to give the desired product (0.092 g, 0.27 mmol, 51% yield) as a yellow waxy solid. MS (ESI) m/z 340 [M]+, 342 [M+2]+.

reactant | tert-Butyl 6-bromo-4-methyl-2-(methylamino)-1H-benzo[d]imidazole-1-carboxylate (6-Bromo-4-methylbenzimidazol-2-yl)-N-methylamine | 0.533 mmol, 0.128 g | BrC=1C=C(C2=C(N=C(N2)NC)C1)C.BrC=1C=C(C2=C(N(C(=N2)NC)C(=O)OC(C)(C)C)C1)C
reactant | diisopropylethylamine | 2.67 mmol, 0.464 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 1.599 mmol, 0.349 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-Butyl 6-bromo-4-methyl-2-(methylamino)-1H-benzo[d]imidazole-1-carboxylate | 0.27 mmol, 0.092 g, 51% yield | BrC=1C=C(C2=C(N(C(=N2)NC)C(=O)OC(C)(C)C)C1)C | C14H18BrN3O2
